US07112598B2
(b) (2S,4S)-3-Acetyl-5,5-dimethyl-2-phenyl-4-thiazolidinecarboxylic Acid (Reference Compound No. 5-1b)
A solution of benzaldehyde (102 ml, 1.01 mol) in ethanol (300 ml) was added to a solution of D-penicillamine (150 g, 1.01 mol) in water (900 ml) at room temperature. The mixture was stirred at room temperature for 15 minutes and under ice-cooling for 1.5 hours, and then the precipitated crystals were filtered off and dried. Acetic anhydride (480 ml, 5.05 mol) was added dropwise to a solution of the obtained crystals in water (700 ml) at 60° C. over 15 minutes. The mixture was stirred at the temperature for 15 minutes, then at room temperature for 15 minutes and under ice-cooling for 1.5 hours, and the precipitated crystals were filtered off and dried to give 252.3 g (89%) of the target compound.

reactant | benzaldehyde | 1.01 mol, 102 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | D-penicillamine | 1.01 mol, 150 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | Acetic anhydride | 5.05 mol, 480 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 900 ml | O | H2O
solvent | water | 700 ml | O | H2O
product | (2S,4S)-3-Acetyl-5,5-dimethyl-2-phenyl-4-thiazolidinecarboxylic Acid | 252.3 g, 89% | C(C)(=O)N1[C@@H](SC([C@@H]1C(=O)O)(C)C)C1=CC=CC=C1 | C14H17NO3S
